US04010184
To a solution of 5.8 g of 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 50 ml of pyridine is added 4.2 g of 2-piperidinoethylcarbamoyl chloride, and the mixture is stirred for 24 hours at 60° C. Then pyridine is evaporated under reduced pressure, and to the residue is added acetone to crystallize. The crude crystals obtained are recrystallized from ethanol to give 5-o-chlorophenyl-7-ethyl-1-(2-piperidinoethylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride 1/2hydrate as yellow crystals, melting at 215°-216° C with decomposition.

reactant | 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 5.8 g | ClC1=C(C=CC=C1)C=1C2=C(NCCN1)SC(=C2)CC | C15H15ClN2S
reactant | 2-piperidinoethylcarbamoyl chloride | 4.2 g | N1(CCCCC1)CCNC(=O)Cl | C8H15ClN2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-o-chlorophenyl-7-ethyl-1-(2-piperidinoethylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(NCCN1CCCCC1)=O)SC(=C2)CC | InChI=1S/C23H29ClN4OS.2ClH/c1-2-17-16-19-21(18-8-4-5-9-20(18)24)25-11-15-28(22(19)30-17)23(29)26-10-14-27-12-6-3-7-13-27;;/h4-5,8-9,16H,2-3,6-7,10-15H2,1H3,(H,26,29);2*1H
